US04994452
To a suspension of 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.94 g) in dry tetrahydrofuran (150 ml) was added potassium tert-butoxide (2.62 g). The mixture was stirred for 15 mins, 1-bromopropane (7.07 ml) was added, and the reaction mixture was refluxed overnight. The reaction mixture was concentrated, diluted with saturated potassium carbonate solution, and extracted with ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was to adhered to adhered to silica, and flash chromatographed (30% ethyl acetate/hexane). The appropriate fractions were evaporated and the residue was triturated with diethyl ether to yield 4.39 g (76%) of 1,3,9,10,11,12-hexahydro-1-propyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one.

reactant | 1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.94 g | N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C15H14N2O2
reactant | potassium tert-butoxide | 2.62 g | CC(C)([O-])C.[K+]
reactant | 1-bromopropane | 7.07 ml | BrCCC | C3H7Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1,3,9,10,11,12-hexahydro-1-propyl-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.39 g, 76% | C(CC)N1C(COC2=C3C1=C1CCCCC1=NC3=CC=C2)=O | C18H20N2O2
